US07517884B2
4-|cis-2,6-Dimethyl-4-(4-trifluoromethoxy-phenyl)-piperazine-1-sulfonyl|-indan-2-carboxylic acid amide. Thionyl chloride (42 μL, 0.577 mmol) was added to 4-[cis-2,6-dimethyl-4-(4-trifluoromethoxyphenyl)-piperazine-1-sulfonyl]-indan-2-carboxylic acid (250 mg, 0.502 mmol) in THF (4 mL) at 50 C for 1 h and then concentrated. The crude mixture was then dissolved in THF (4 mL) and ammonium hydroxide (300 μL) was added. The cloudy brown solution was stirred for an additional 3 h at room temperature. The solution was then concentrated and purified by silica gel column chromatography (0-20% MeOH in dichloromethane) to afford 4-[cis-2,6-dimethyl-4-(4-trifluoromethoxy-phenyl)-piperazine-1-sulfonyl]-indan-2-carboxylic acid amide (190 mg, 76%). 1H NMR (400 MHz, CD3OD) δ ppm. 7.71 (d, 1H), 7.47 (d, 1H), 7.34 (t, 1H), 7.10 (d, 2H), 6.94-6.91 (m, 2H), 4.20-4.14 (m, 1H), 4.05-3.90 (m, 1H), 3.54 (d, 2H), 3.41-3.21 (m, 5H), 2.77 (dd, 1H), 2.68 (dd, 1H), 1.51 (d, 3H), 1.49 (d, 3H). LCMS: 498.7 (M+1)+.

reactant | indan-2-carboxylic acid amide | C1C(CC2=CC=CC=C12)C(=O)N | C10H11NO
reactant | Thionyl chloride | 0.577 mmol, 42 μL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-[cis-2,6-dimethyl-4-(4-trifluoromethoxyphenyl)-piperazine-1-sulfonyl]-indan-2-carboxylic acid | 0.502 mmol, 250 mg | C[C@@H]1N([C@@H](CN(C1)C1=CC=C(C=C1)OC(F)(F)F)C)S(=O)(=O)C1=C2CC(CC2=CC=C1)C(=O)O | C23H25F3N2O5S
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 4-[cis-2,6-dimethyl-4-(4-trifluoromethoxy-phenyl)-piperazine-1-sulfonyl]-indan-2-carboxylic acid amide | 190 mg, 76% | C[C@@H]1N([C@@H](CN(C1)C1=CC=C(C=C1)OC(F)(F)F)C)S(=O)(=O)C1=C2CC(CC2=CC=C1)C(=O)N | C23H26F3N3O4S
